* LM358 OUTSIDE LM358 rating: qualitative extrapolation, NOT guaranteed behavior
* onsemi LM358/D Rev.36, Sep 2024. See TEST_README.md for provenance.
* PREVIEW: no QSPICE run has been performed in this environment.
.step temp list -35 -20 -1
.lib ../LM358.txt
V_OSCC OScc 0 5
V_OSCM OScm 0 0
V_OST OSt 0 1.4
E_OSS OSbase OScm OSout OSt 1000
V_OSIP OScm OSip 0
V_OSIM OSbase OSim 0
X_OS OSip OSim OScc 0 OSout LM358
B_os os 0 V={V(OSim,OSip)}
B_ios ios 0 V={abs(I(V_OSIP)-I(V_OSIM))}
B_rated rated 0 V={if(temp<0,0,if(temp>70,0,1))}
V_CC cc 0 5
V_IN in 0 1
X_F in out cc 0 out LM358
R_L out 0 10k
B_followerr followerr 0 V={abs(V(out,in))}
B_actual_temp actual_temp 0 V={temp}
V_SCAN scan 0 0
.dc V_SCAN 0 1 1
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 gmin=1e-12
.save V(actual_temp) V(followerr) V(ios) V(os) V(rated)
.meas DC VOS_EXTRAPOLATION AVG V(os)
.meas DC IOS_EXTRAPOLATION AVG V(ios)
.meas DC WITHIN_DATASHEET_RATING AVG V(rated)
.meas DC FEEDBACK_SANITY_ONLY AVG V(followerr)
.meas DC ACTUAL_TEMP AVG V(actual_temp)
.end
